US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[2-hydroxycarbonylmethyl-3-oxopiperazin-1-ylcarbonyl]benzamide
Prepared analogously to Example 1d from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, PFTU, diisopropylethylamine, and 3-(hydroxycarbonylmethyl)piperazin-2-one in dimethylformamide. Yield: 32%; C23H21Cl2N5O5 (518.355); mass spectrum: (M+H)+=518/520/522 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(hydroxycarbonylmethyl)piperazin-2-one | OC(=O)CC1C(NCCN1)=O | C6H10N2O3
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[2-hydroxycarbonylmethyl-3-oxopiperazin-1-ylcarbonyl]benzamide | Yield: 32% | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(C(NCC1)=O)CC(=O)O | C23H21Cl2N5O5
